US06949542B2
[4-Chloro-2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-chloro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example J31) (256 mg, 0.75 mmol) and 3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K24) (242 mg, 0.75 mmol) according to the general procedure M. Obtained as a colorless solid (249 mg, 53%).

reactant | [2-amino-4-chloro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 256 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)N)=O | C13H16ClF3N2O3
reactant | 3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 242 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O | C19H18N2O3
product | [4-Chloro-2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O)=O | C28H24ClF3N4O5
